*
* 3-Lead Version
* 1 REF
* 2 Anode (V-, GND-S, GND-F)
* 3 Cathode (V+, Collector))
* *
.SUBCKT LT1431Z 1 2 3
X1 3 10 3 11 2 2 12 1 LT1431
RCOMP 10 2 1G  ;
RTOP 11 10 10k ; no function
RMID 12 10 10k ; no function
*
* Version 2.0 Copyright © Linear Technology Corp. 10/19/05. All rights reserved.
*
*CCM 5 August 1997 16:27:12 $
*
* Pinout matches IC Pinout
* 1 Collector
* 2 Comp
* 3 V+
* 4 Rtop
* 5 GND-sense
* 6 GND-force
* 7 Rmid
* 8 Ref
.SUBCKT LT1431 1 2 3 4 5 6 7 8
*
* 10 KOhm voltage divider
RTOP 4 7 5.0E3
RBOT 7 5 5.0E3
* 2.5 V voltage reference
* with temperature and supply
* voltage dependency
IT1 11 5 1.0E-3
RT1 11 5 1.0E3
IT2 12 5 1.0E-3
RT2 12 5 1.0E3 TC=1.0E-4
RVREF 10 5 1.0E3
* Vref exactly 2.5 V
GVREF 5 10 POLY(2) 3 5 11 12 2.4987E-3 -3.5E-7 0 0 0 -0.17
* Vref + 0.5% = 2.512 V
*GVREF 5 10 POLY(2) 3 5 11 12 2.511E-3 -3.5E-7 0 0 0 -0.17
* transconductance amplifier
* input bias with cancellation for Vin > 4V
RIN 8 16 10
GBIAS 16 3 POLY(1) 17 5 4.8E-6 -1.2E-6
GIB2 5 17 3 5 1.0E-3
RIB1 17 5 1.0E3
DIB 17 18 DX
RIB2 18 19 1
VIB 19 5 DC 3.2V
* 1. pole at 18.4 Kz / 1. zero at 184 KHz
GP1 5 20 8 10 1.0E-5
CP1 20 21 7.79E-11
RP11 21 5 11100
RP12 20 5 1.0E5
* 2. pole at 375 Kz / 2. zero at 750 KHz
GP2 5 22 20 5 1.0E-5
CP2 22 23 2.12E-12
RP21 23 5 1.0E5
RP22 22 5 1.0E5
* 3. zero at 750 KHz / 3. pole at 2.25 MHz
GP3 5 24 22 5 1.0E-5
LP3 24 25 0.0318
RP31 25 5 150E3
RP32 24 5 300E3
* 4. pole at 3.0 MHz
GP4 5 26 24 5 1.0E-5
RP4 26 5 1.0E5
CP4 26 5 5.3E-13
* 5. pole at 3.0 MHz
GP5 5 27 26 5 1.0E-5
RP5 27 5 1.0E5
CP5 27 5 5.3E-13
* transconductance 4 mA/V
GGM 5 28 27 5 4.0E-3
R15 28 2 5.0E3
* output voltage clamp (Vout = 0 - V+)
DNL 50 28 DX
VNL 50 5 DC 0.782
DPL 28 51 DX
EPL 51 5 POLY(1) 3 5 -0.782 1.0
* open collector output stage
R17 2 30 1.5E3
Q19 2 33 34 Q1
R16 34 5 22
Q20 3 30 31 Q1
R18 31 5 50000
Q22A 1 31 32 Q2
Q22B 1 31 30 Q2
R19 32 6 3.6
R20 33 32 5.0E3
R21 2 5 100000
C3 30 1 6e-12
C4 33 2 1e-12
.MODEL Q1 NPN IS=1e-14 BF=250
.MODEL Q2 NPN IS=1e-14 BF=50
.MODEL DX D IS=8e-16 VJ=1.0 RS=0 XTI=0
* Ik vs Vka characteristic below Vref
* and off-state current
* Ik(min) = 0.55 mA
GIK1 5 40 POLY(1) 8 5 -1.0E-3 1.0E-3
RIK 40 5 1.0E4
DIK 41 40 DX
VIK 41 5 DC 0.723
GIK2 3 5 POLY(1) 40 5 0.9E-6 3.7E-5
.ENDS LT1431
*
.ENDS LT1431Z
